US07420001B2
To 2 g (0.81 mmol) of 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester was added 20 mL of carbon tetrachloride, and the mixture was cooled with a water/ice bath while 1 equivalent of N-bromosuccinimide was added in small portions. After stirring at 0° C. for 3 h, the reaction mixture was filtered and the filtrate was loaded onto a column and purified by column chromatography to give 1.6 mg (59% yield) of 5-bromo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester as a white solid.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.81 mmol, 2 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C12H12O4
reactant | N-bromosuccinimide | 1 equivalent | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 1.6 mg, 59% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Br)O | C12H11BrO4
